US06693193B1
Sodium hydride (0.6 g, 50% dispersion) was added to a stirred solution of 2-amino-4-benzyloxy-5-N-benzyloxymethyl-7-bromopyrrolo[3,2-d]pyrimidine (1.2 g) in N,N-dimethylformamide (25 mL) followed by 4-methoxybenzyl chloride (1.1 mL). After 1 h the reaction was quenched carefully with water, chloroform was added and the solution was washed (×2) with water. Normal processing followed by chromatography afforded 4-benzyloxy-5-N-benzyloxymethyl-7-bromo-2-{N,N-bis-(4-methoxybenzyl)amino}pyrrolo[3,2-d]pyrimidine (1.7 g) as a white solid. 13C-NMR (CDCl3) δ 159.0, 158.5, 156.5, 151.5, 137.4, 137.0, 131.8, 131.6, 129.7, 128.9, 128.8, 128.4, 128.3, 128.0, 114.1, 110.5, 91.1, 77.8, 70.6, 68.0, 55.7, 49.4. Anal. calc. for C37H35BrN4O4: C, 65.39; H, 5.19; Br, 11.76; N, 8.24. Found: C, 65.47; H, 5.17; Br, 11.55; N, 8.42.

reactant | Sodium hydride | 0.6 g | [H-].[Na+]
reactant | 2-amino-4-benzyloxy-5-N-benzyloxymethyl-7-bromopyrrolo[3,2-d]pyrimidine | 1.2 g | NC=1N=C(C2=C(N1)C(=CN2COCC2=CC=CC=C2)Br)OCC2=CC=CC=C2 | C21H19BrN4O2
reactant | 4-methoxybenzyl chloride | 1.1 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 4-benzyloxy-5-N-benzyloxymethyl-7-bromo-2-{N,N-bis-(4-methoxybenzyl)amino}pyrrolo[3,2-d]pyrimidine | 1.7 g | C(C1=CC=CC=C1)OC=1C2=C(N=C(N1)N(CC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)C(=CN2COCC2=CC=CC=C2)Br | C37H35BrN4O4
